US05455274
A mixture of 2-fluoro-4-methoxy-benzonitrile (500 mg, 0.246 mmol) and pyridine hydrochloride (2.0 g, 17.2 mmol) is heated at 170° C. for 5 hours. The reaction is partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase is washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 2-fluoro-4-hydroxy-benzonitrile.

reactant | 2-fluoro-4-methoxy-benzonitrile | 0.246 mmol, 500 mg | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
reactant | pyridine hydrochloride | 17.2 mmol, 2.0 g | Cl.N1=CC=CC=C1
product | 2-fluoro-4-hydroxy-benzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
